Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Progressive dyspnea
 
Major Surgical or Invasive Procedure:
___ ___ Chest Tube Placement
___ and ___ Pleurodecesis
___ - Chest Tube removal

 
History of Present Illness:
Mrs. ___ is a ___ year-old lady with advanced EGFR+ NSCLC 
complicated by a right-sided malignant pleural effusion s/p 
pleurodesis currently on gefitib who presents with worsening 
dyspnea on exertion and cough. 

Three weeks prior to admission she felt "a tug" in her right 
chest while exercising. Since then she has progressively become 
short of breath on exertion. She has noticed a mild dry cough 
over the past week. Over the past 3 days she has been unable to 
go up the stairs due to her dyspnea. She called Dr. ___
oncologist, who referred her to the ED for evaluation. 

ED initial vitals were 97.4 87 130/76 18 96% RA  
Prior to transfer vitals were 97.5 79 108/65 20 95% RA 

Exam in the ED showed: left lung clear to auscultation, right 
lung with diminished breath sounds from the midfield down, and 
dullness to percussion there as well. 
EXT: No lower extremity edema. +2 posterior tibialis pulses 
bilaterally
 
ED work-up significant for:
-CBC: 6.6 > 12.9 < 335
-Chemistry: 139/3.9 | 104/23 | ___
-CXR: "Appearance of the right pleural effusion, partially 
loculated pleural effusion has grown since ___. 
Underlying consolidation in the right lung better assessed on 
prior PET-CT"
-CTA Chest: "No pulmonary embolism or acute aortic syndrome. 
Increased right pleural effusion with increased leftward 
mediastinal shift compared to PET-CT from ___ 

On arrival to the floor, patient reports feeling well overall 
except for her dyspnea on exertion. Her cough is minimal and 
non-productive.

Patient denies fevers/chills, night sweats, headache, vision 
changes, dizziness/lightheadedness, weakness/numbness, shortness 
of breath at rest, hemoptysis, chest pain, palpitations, 
abdominal pain,
nausea/vomiting, diarrhea, hematemesis, hematochezia/melena, 
dysuria, hematuria, and rash. 

REVIEW OF SYSTEMS: A complete 10-point review of systems was 
performed and was negative unless otherwise noted in the HPI. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY (Per ___, reviewed): 
- ___: went to Urgent Care given ongoing cough and found to 
have RUL mass on imaging
- ___: Had FDG avid 3.1 cm RUL mass with minimal increase in 
moderate right non hemorrhagic pleural effusion and extensive 
miliary nodules and focal FDG uptake along T10 vertebral body 
with associate sclerotic lesion
-___: IP performed ___ with cytology showing lung 
adenocarcinoma
-___: started gefitinib
-___: ___ #2 for symptomatic recurrent pleural effusion, 
800cc removed
-___: right thoracoscopy with pleural biopsy, talc 
pleurodesis, and tunneled pleural catheter placement
-___ - ___: admitted for talc pleurodesis
-___: second talc pleurodesis 

PAST MEDICAL HISTORY (Per OMR, reviewed):  
-HSV 1
-H/O Sphenoid sinusitis
-Skin SCC s/p excision x2
 
Social History:
___
Family History:
Father: colon cancer in his ___, active smoker who quit ___ years 
before diagnosis and may have had asbestos exposure  
Mother: skin cancers, when much older was found to have likely 
metastatic disease in her lungs (unknown primary)  
Sister: breast cancer at ___, died of pancreatic cancer at ___, MS 
 
Sister: ___ Macroglobulinemia  
Sister: melanoma  
Brother: melanoma  
Maternal uncle: ___ Macroglobulinemia  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=====================
VS: 97.9 PO 131/78 76 18 93 RA 
GENERAL: Well-appearing lady, in no distress lying in bed 
comfortably.
HEENT: Anicteric, PERLL, Mucous membranes moist, OP clear.
CARDIAC: Regular rate and rhythm, normal heart sounds, no 
murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, decreased breath 
sounds and dullness in lower half of right hemithorax
ABD: Non-distended, normal bowel sounds, soft, non-tender, no 
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. Trace lower extremity edema. No 
erythema or tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII 
intact. Strength full throughout. Sensation to light touch 
intact.
SKIN: No significant rashes.

DISCHARGE PHYSICAL EXAM:
======================
VS: 98.2PO 94 / 56 98 18 93 RA 
GENERAL: NAD
HEENT: MMM, op clear
CARDIAC: RRR, normal heart sounds, no
murmurs, rubs or gallops.
LUNG: no respiratory distress, decreased breath sounds
in lower third of right hemithorax
CHEST: Right CT c/d/I connected to pleurevac to LWS 
ABD: Non-distended, normal bowel sounds, soft, non-tender, no
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. No lower extremity edema. No
erythema or tenderness.
NEURO: Grossly intact
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS:
=============
___ 08:45PM BLOOD WBC-6.6 RBC-4.61 Hgb-12.9 Hct-40.3 MCV-87 
MCH-28.0 MCHC-32.0 RDW-13.1 RDWSD-42.0 Plt ___
___ 08:45PM BLOOD Neuts-68.1 Lymphs-17.2* Monos-11.1 
Eos-2.4 Baso-0.9 Im ___ AbsNeut-4.46 AbsLymp-1.13* 
AbsMono-0.73 AbsEos-0.16 AbsBaso-0.06
___ 08:45PM BLOOD Glucose-96 UreaN-19 Creat-0.6 Na-139 
K-3.9 Cl-104 HCO3-23 AnGap-16
___ 08:05AM BLOOD ___ PTT-29.1 ___
___ 08:05AM BLOOD ALT-15 AST-19 LD(LDH)-196 AlkPhos-74 
TotBili-0.6
___ 08:05AM BLOOD Albumin-3.6 Calcium-9.1 Phos-4.2 Mg-2.1

DISCHARGE LABS:
=============
___ 08:00AM BLOOD WBC-7.5 RBC-4.76 Hgb-13.2 Hct-41.4 MCV-87 
MCH-27.7 MCHC-31.9* RDW-13.0 RDWSD-41.4 Plt ___
___ 08:00AM BLOOD Glucose-91 UreaN-16 Creat-0.6 Na-141 
K-4.3 Cl-103 HCO3-25 AnGap-17

MICROBIOLOGY:
============
___ 11:16 am PLEURAL FLUID

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 

IMAGING/STUDIES:
=============
___ CXR
FINDINGS: 
When compared to prior chest x-ray from ___, there has been 
interval
progression of the right-sided pleural effusion which is 
partially loculated
including some fluid within the fissure.  Underlying 
consolidation in the
right lung base is noted as well as opacity in the right 
paramediastinal
region as previously noted.  Of note there is no drastic 
interval change since
recent PET-CT however direct comparison is limited due to 
differences in
technique/positioning.  The left lung is grossly clear.  No 
acute osseous
abnormalities.
 
IMPRESSION: 
Appearance of the right pleural effusion, partially loculated 
pleural effusion
has grown since ___.  Underlying consolidation in the 
right lung
better assessed on prior PET-CT

___ CTA CHEST
FINDINGS: 
The aorta and its major branch vessels are patent, with no 
evidence of
stenosis, occlusion, dissection, or aneurysmal formation.  
Thoracic aorta is
normal in caliber without evidence of dissection, intramural 
hematoma nor
aneurysm.
 
The pulmonary arteries are well opacified to the subsegmental 
level, with no
evidence of filling defect to suggest pulmonary embolism.  The 
main and right
pulmonary arteries are normal in caliber.
 
There is no supraclavicular, axillary, mediastinal, or hilar 
lymphadenopathy. 
The visualized portion of the thyroid appears unremarkable.
 
Again seen is a large loculated right-sided pleural effusion 
that is increased
in size from PET CT on ___.  There is an associated 
leftward shift of
the mediastinum, slightly increased from prior.  Hyperdensities 
within the
effusion inferiorly is compatible with prior talc pleurodesis.  
There is no
evidence of pericardial effusion.
 
Again seen is a right upper lobe masslike consolidation abutting 
the
mediastinum measuring 3.7 x 1.6 cm (previously 2.1 x 3 cm).  
This mass appears
perhaps slightly larger, particularly at its medial aspect.  
Bilateral diffuse
micronodules are again seen and unchanged compared to ___,
although are markedly less conspicuous compared to ___.  Right
middle and lower lobe atelectasis are again noted.  The airways 
are patent to
the subsegmental level.
 
Limited images of the upper abdomen show relatively unchanged 
hypodensities in
the liver, which likely represent cysts.  Hyperenhancing focus 
in segment four
(2:91) is unchanged compared to ___, potentially 
altered perfusion
versus flash filling hemangioma though incompletely 
characterized.
 
Blastic lesion is unchanged at the superior endplate of T10, 
which did not
show FDG avidity on recent PET scan.
 
IMPRESSION:
1. No pulmonary embolism or acute aortic syndrome.
2. Increased loculated right pleural effusion with slight 
increased leftward
shift of the mediastinum compared to PET-CT on ___.
3. Right upper lobe soft tissue mass, which is relatively 
unchanged since ___.  Of note, on recent PET from ___ there is 
no increased
FDG uptake though continued followup will be necessary.
4. Diffuse bilateral micronodules are unchanged compared to ___,
although are markedly less conspicuous compared to ___.
5. Unchanged hypodensities in the liver, likely representing 
cysts. 
Hyperenhancing focus, unchanged, incompletely characterized 
though potentially
flash filling hemangioma or altered perfusion.
6. Unchanged blastic lesion of the superior endplate of T10, 
which did not
show FDG avidity on recent PET scan.

___ CT CHEST W/O CONTRAST
1. Significant interval improvement in the previously seen large 
loculated
right pleural effusion following pleural catheter placement, 
with small
residual.  Improved right basilar atelectasis, with mild 
re-expansion edema in
the right lung..
2. A right upper lobe mass.
3. Diffuse bilateral micronodules are more prominent compared to 
___,
have random distribution, arguing for component of infection, 
possibly
disseminated.  Component of diffuse metastatic disease or 
lymphangitic tumor
spread should be excluded on a follow-up chest CT.
4. T10 sclerosis is stable, likely metastasis.
RECOMMENDATION(S):  Follow-up chest CT.

___ Imaging CHEST (PORTABLE AP) 
Mild cardiomegaly is stable.  There are low lung volumes.  Small 
to moderate 
right effusion has increased despite the presence of a right 
pleural catheter. 
There is no pneumothorax.  Small lung nodules were better 
evaluated on prior 
CT. 

___ Imaging CHEST (PORTABLE AP) 
In comparison with the study of ___, there probably is 
slightly more 
prominence of the opacification in the right hemithorax 
consistent with 
substantial effusion and underlying atelectatic changes.  The 
pigtail catheter 
remains in place and there is no pneumothorax.  The spiculated 
mass in the 
right upper lung was better seen on the CT study of ___, as 
were the 
bilateral micro nodules..  In the appropriate clinical setting, 
it would be 
difficult to exclude superimposed pneumonia. 
The left lung appears essentially clear. 

 
Brief Hospital Course:
Mrs. ___ is ___ year old female with PMHx Stage IV NSCLC on 
Gefitinib since ___ complicated by right malignant pleural 
effusion s/p thoracenteses and pleurodesis x 2, most recently in 
___ who presents with progressive dyspnea on exertion and a 
dry cough for x 1 week found to have a R sided malignant pleural 
effusion. 

# Loculated right-sided malignant pleural effusion
Interval increase in effusion since previous imaging is likely 
etiology of her progressive dypsnea on exertion. CTA Chest 
negative for pulmonary embolism. Underwent ___ CT placement with 
IP on ___ and talc pleurodesis on ___ and ___ with stable 
output. Chest tube was pulled on day of discharge and output was 
minimal prior to removal.

# Advanced EGFR+ NSCLC:
Held gefitinib inpatient. Discharged with oncology follow up and 
plan to continue gefitinib as outpatient.

TRANSITIONAL ISSUES:
=================
- f/u with IP on ___ - they will schedule the appointment
- f/u EGFR mutation from pleural cytologies

# CODE: Full Code, presumed
# EMERGENCY CONTACT / HCP: Health care proxy chosen: Yes
Name of health care proxy: ___
Relationship: husband
Phone number: ___
Cell phone: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. gefitinib 250 mg oral DAILY 
2. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth TID:PRN Disp #*30 
Capsule Refills:*0 
2.  gefitinib 250 mg oral DAILY  
3.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Loculated right-sided malignant pleural effusion
Advanced EGFR+ NSCLC

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital with shortness of breath.

WHAT WAS DONE FOR ___?
- ___ had a tube placed to drain fluid from your lung.
- ___ underwent a procedure called pleurodecis.

WHAT TO DO NEXT?
- Please follow up with your doctors as ___ and take your 
medicines as prescribed.

It was a pleasure taking of ___,

Your ___ Care Team
 
Followup Instructions:
___